US08461329B2
To a solution of ethyl 3-cyano-3-(3-methoxyphenyl)propanoate (11.9 g) in ethanol (41 ml), 12 N hydrochloric acid (3.8 ml) and 20% palladium hydroxide on carbon (2.10 g) was added, and the mixed solution was stirred in hydrogen atmosphere at room temperature for 15 hours. The solvent was removed by evaporation under reduced pressure, and resulting crude product was purified by column chromatography (neutral OH type silica gel, methanol/chloroform=2 to 9%) to give ethyl 4-amino-3-(3-methoxyphenyl)butanoate (3.80 g).

reactant | ethyl 3-cyano-3-(3-methoxyphenyl)propanoate | 11.9 g | C(#N)C(CC(=O)OCC)C1=CC(=CC=C1)OC | C13H15NO3
solvent | ethanol | 41 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 12 N, 3.8 ml | Cl | ClH
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 2.10 g | [OH-].[OH-].[Pd+2]
product | ethyl 4-amino-3-(3-methoxyphenyl)butanoate | 3.80 g | NCC(CC(=O)OCC)C1=CC(=CC=C1)OC | C13H19NO3
